US07705027B2
5-[4(4-Methoxy-phenyl)-3-methyl-isoxazol-5-yl]-biphenyl-2,4-diol
Hydroxylamine hydrochloride (75 mg, 1.08 mmol) was added to a suspension of 7-hydroxy-3-(4-methoxy-phenyl)-2-methyl-6-phenyl-chromen-4-one (105 mg, 0.29 mmol) in pyridine (2 ml) and the mixture heated under reflux for ˜6 hrs., to give a pale yellow solution. The solution was allowed to cool and water (20 ml) added. The mixture was extracted with diethyl ether (2×10 ml). The combined extracts were washed with water (2×20 ml) and saturated aqueous sodium chloride solution (10 ml). The solution was dried over anhydrous magnesium sulphate and concentrated. The crude products were purified by column chromatography, silica, eluting with ethyl acetate/hexane (1:1), to give the title compound as an off-white powder (80 mg)

reactant | Hydroxylamine hydrochloride | 1.08 mmol, 75 mg | Cl.NO
reactant | 7-hydroxy-3-(4-methoxy-phenyl)-2-methyl-6-phenyl-chromen-4-one | 0.29 mmol, 105 mg | OC1=C(C=C2C(C(=C(OC2=C1)C)C1=CC=C(C=C1)OC)=O)C1=CC=CC=C1 | C23H18O4
reactant | water | 20 ml | O | H2O
solvent | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
product | 5-[4(4-Methoxy-phenyl)-3-methyl-isoxazol-5-yl]-biphenyl-2,4-diol | 80 mg | COC1=CC=C(C=C1)C=1C(=NOC1C1=C(C=C(C(=C1)C1=CC=CC=C1)O)O)C | C23H19NO4
